US08293897B2
To a mixture of Ti(OiPr)4 (0.33 mL, 0.001 mol, Ardrich) and (5S)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-dihydrofuran-2(3H)-one (1.0 g, 0.005 mol) in 18.7 mL of THF was added a solution of 3M EtMgBr in Et2O (4.3 mL, 0.0125 mol, Aldrich) via a syringe over 3 hrs at 15° C. After stirring for additional one hour at 15° C., the reaction was quenched with 20 mL of saturated NH4Cl solution, filtered and extracted with EtOAc (50 mL×2). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography to afford 1-((S)-3-hydroxy-4-(tetrahydro-2H-pyran-2-yloxy)butyl)cyclopropanol as colorless oil (0.853 g, 74%)2.

reactant | (5S)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)-dihydrofuran-2(3H)-one | 0.005 mol, 1.0 g | O1C(CCCC1)OC[C@@H]1CCC(O1)=O | C10H16O4
reactant | EtMgBr | 3M | CC[Mg+].[Br-]
reactant | Et2O | 0.0125 mol, 4.3 mL | CCOCC | C4H10O
solvent | THF | 18.7 mL | C1CCOC1 | C4H8O
catalyst | Ti(OiPr)4 | 0.001 mol, 0.33 mL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-((S)-3-hydroxy-4-(tetrahydro-2H-pyran-2-yloxy)butyl)cyclopropanol | 0.853 g, 74% | O[C@@H](CCC1(CC1)O)COC1OCCCC1 | C12H22O4
